US09233946B2
5-[2-(Methylthio)pyrimidin-4-yl]-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from 5-[2-(methylthio)pyrimidin-4-yl]thiophene-2-sulfonyl chloride (17 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8 mg, 0.05 mmol) giving 9.3 mg (43%) of the title compound. MS (ESI+) calcd for C16H13N7O2S3 431.029285, found 431.029205.

reactant | 5-[2-(methylthio)pyrimidin-4-yl]thiophene-2-sulfonyl chloride | 0.055 mmol, 17 mg | CSC1=NC=CC(=N1)C1=CC=C(S1)S(=O)(=O)Cl | C9H7ClN2O2S3
reactant | 5-(3-aminophenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 5-[2-(Methylthio)pyrimidin-4-yl]-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide | 9.3 mg, 43% | CSC1=NC=CC(=N1)C1=CC=C(S1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C16H13N7O2S3
